US05578627
3-(3-Ureidocarbonyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole is suspended in 10 ml of methanol and 5 ml of chloroform, and 12.8 ml of a 2-propanol solution (7.5N) of hydrogen chloride is added, after which they are subjected to reaction at 20°-25° C. overnight. The crystals precipitated are collected by filtration, to obtain 0.62 g of colorless, crystalline 3-(2-amino-3-ureidocarbonyloxypropoxy)-5-chloro-1,2-benzisoxazole hydrochloride having a melting point of 203°-204° C.

reactant | 3-(3-Ureidocarbonyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole | N(C(=O)N)C(=O)OCC(COC1=NOC2=C1C=C(C=C2)Cl)NC(=O)OC(C)(C)C | C17H21ClN4O7
reactant | 2-propanol | 7.5N, 12.8 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-amino-3-ureidocarbonyloxypropoxy)-5-chloro-1,2-benzisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NC(=O)N | InChI=1S/C12H13ClN4O5.ClH/c13-6-1-2-9-8(3-6)10(17-22-9)20-4-7(14)5-21-12(19)16-11(15)18;/h1-3,7H,4-5,14H2,(H3,15,16,18,19);1H
